US06498169B1
Synthesis of 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)pyridine
Ethyl 2-(3,4,5-trimethoxyphenyl)isonicotinate (24.57 g) was dissolved in dry THF (200 mL), and to the solution lithium aluminum hydride (2.94 g) was added at 0° C. under an argon atmosphere. The mixture was stirred at 0° C. for 1 hour as it is. A small amount of water and then sodium sulfate were added to the reaction mixture, and the reaction mixture was filtered through celite. The filtrate was evaporated, and the reultant crude crystals were recrystalized from ethyl acetate-hexane to give the title compound.

reactant | Ethyl 2-(3,4,5-trimethoxyphenyl)isonicotinate | 24.57 g | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)OCC)C=CN1 | C17H19NO5
reactant | lithium aluminum hydride | 2.94 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)pyridine | OCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H17NO4
